US07579469B2
To a solution of the 4-fluorophenol (25.3 g) and dimethylacryloyl chloride (25.9 g) in diisopropyl ether (500 mL) cooled in an ice bath was added triethylamine (35 mL) dropwise over a period of 20 minutes. After 1 hour, the reaction mixture was washed with water and brine, dried over sodium sulfate, and the organic solvent was evaporated in vacuo to give crude ester. Distillation under vacuum gave dimethylacrylate 4-fluorophenyl ester (38.20 g, 87%).

reactant | 4-fluorophenol | 25.3 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | dimethylacryloyl chloride | 25.9 g | CC(=CC(=O)Cl)C | C5H7ClO
reactant | triethylamine | 35 mL | C(C)N(CC)CC | C6H15N
solvent | diisopropyl ether | 500 mL | C(C)(C)OC(C)C | C6H14O
product | dimethylacrylate 4-fluorophenyl ester | 38.20 g, 87% | FC1=CC=C(C=C1)OC(C=C(C)C)=O | C11H11FO2
